US04698350
A 35 g portion of 1-ethyl-1,4-dihydro-6-nitro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylic acid was suspended in a mixture of 350 ml of hot dimethylformamide, 280 ml of saturated NaHCO3 and 70 ml of water and the suspension was heated on a steam bath with stirring. A mixture of 58 g of sodium hydrosulfite in 100 ml of water was added in portions over a period of 20 minutes, during which time the reaction mixture became a clear solution and then darkened. More saturated NaHCO3 solution (50 ml) was added and the reaction mixture was heated for 16 hours, after which time reduction was not complete. More sodium hydrosulfite (12 g) was added directly to the reaction mixture and heating continued for 1 hour after which time the reduction appeared to be complete (by TLC). Water (100 ml) was added, redissolving some of the material which had come out of solution; and, the mixture was heated an additional 90 minutes to insure completion of the reduction. A 1.15 g sample, m.p. 288°-290° C. with decomposition, was recrystallized from ethanol and dried for 16 hours at 130° C. under high vacuum to yield 0.9 g of 6-amino-1-ethyl-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylic acid as its monohydrate, m.p. >300° C.

reactant | 1-ethyl-1,4-dihydro-6-nitro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylic acid | C(C)N1C=C(C(C2=CC(=C(C=C12)C1=CC(=NC(=C1)C)C)[N+](=O)[O-])=O)C(=O)O | C19H17N3O5
reactant | NaHCO3 | 280 ml | C(=O)(O)[O-].[Na+]
reactant | sodium hydrosulfite | 58 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
reactant | sodium hydrosulfite | 12 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | Water | 100 ml | O | H2O
solvent | water | 70 ml | O | H2O
product | 6-amino-1-ethyl-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylic acid | 0.9 g | NC=1C=C2C(C(=CN(C2=CC1C1=CC(=NC(=C1)C)C)CC)C(=O)O)=O | C19H19N3O3
